US09144239B2
Preparation of 2-(((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl 3-methoxypropanoate (compound 237)
A reaction flask was charged with N-((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (97 mg, 0.207 mmol), DMAP (40.1 mg, 0.328 mmol), and DCM. 3-Methoxypropanoyl chloride (22.5 μl, 0.207 mmol) was added and the colorless solution was stirred at room temperature under N2 overnight. The reaction mixture was concentrated and purified by column chromatography (SiO2, hexanes/EtOAc gradient) to afford the title compound (108.5 mg, 94% yield) as a sticky orange oil: IR (thin film) 3375, 2955, 2873, 1753, 1677, 1507, 1088 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.67 (d, J=8.2 Hz, 1H), 8.38-8.30 (m, 1H), 7.00 (dd, J=5.7, 1.8 Hz, 1H), 5.08-4.98 (m, 1H), 4.93 (ddt, J=12.2, 8.4, 4.1 Hz, 1H), 4.00 (tt, J=7.2, 3.4 Hz, 1H), 3.93-3.84 (m, 3H), 3.85-3.64 (m, 5H), 3.64-3.55 (m, 1H), 3.41 (d, J=1.5 Hz, 3H), 3.33-3.12 (m, 5H), 2.97 (t, J=6.6 Hz, 2H), 1.82 (tt, J=12.9, 6.0 Hz, 2H), 1.43 (dd, J=6.3, 1.7 Hz, 3H), 0.97-0.85 (m, 12H); 13C NMR (101 MHz, CDCl3) δ 170.85, 169.37, 162.67, 159.42, 146.81, 141.19, 137.38, 109.88, 84.82, 83.75, 80.56, 77.70, 74.88, 74.07, 72.99, 67.58, 58.80, 56.32, 52.13, 34.61, 29.11, 28.87, 19.58, 19.46, 19.37, 18.63; ESIMS m/z 555 ([M+H]+).

reactant | N-((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | 0.207 mmol, 97 mg | C(C(C)C)O[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)C)C)=O)NC(C1=NC=CC(=C1O)OC)=O | C23H36N2O8
reactant | 3-Methoxypropanoyl chloride | 0.207 mmol, 22.5 μl | COCCC(=O)Cl | C4H7ClO2
catalyst | DMAP | 0.328 mmol, 40.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl 3-methoxypropanoate | 108.5 mg, 94% yield | COCCC(=O)OC=1C(=NC=CC1OC)C(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC(C)C)OCC(C)C)C)=O)=O | C27H42N2O10
